US09238640B2
Preparation of 3-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)-1-isopropylimidazolidine-2,4-dione
To a solution of 1-isopropyl-imidazolidine-2,4-dione (0.10 g, 0.70 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in mineral oil, 31 mg, 0.77 mmol) and the reaction mixture was stirred for 10 minutes. Then, 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.32 g, 0.73 mmol) was added. The reaction mixture was stirred at 55° C. for 16 hours, then poured into water (100 mL). The solid was filtered and dried. The crude compound was purified by column chromatography (silica gel 230-400 mesh; eluting with 2:1 ethyl acetate and dichloromethane) to give the title compound as a white solid. Yield: 0.09 g (26.0%). MP 219-221° C. 1H NMR (400 MHz, DMSO): δ 9.64 (s, 1H), 7.69 (s, 2H), 6.82 (d, J=2.4 Hz, 1H), 6.45 (d, J=2.4 Hz, 1H), 4.42 (m, 1H), 4.02 (m, 2H), 3.98 (m, 2H), 3.96 (s, 3H), 3.92 (s, 3H), 3.85 (s, 2H), 2.32 (s, 6H) 1.22 (d, J=6.4 Hz, 6H). MS (ES+) m/z: 495.16 (M+1).

reactant | 1-isopropyl-imidazolidine-2,4-dione | 0.70 mmol, 0.10 g | C(C)(C)N1C(NC(C1)=O)=O | C6H10N2O2
reactant | sodium hydride | 0.77 mmol, 31 mg | [H-].[Na+]
reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.73 mmol, 0.32 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)-1-isopropylimidazolidine-2,4-dione | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(OCCN2C(N(CC2=O)C(C)C)=O)C(=C1)C)C)=O | C26H30N4O6
